data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4871,5554,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:23](=[O:24])[O:25][CH3:26],water,298.15,7.014376294427482,-33.12426637195965
2523,2802,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:24]([C:25]#[N:26])([C:27](=[O:28])[O:29][CH3:30])[NH:23][C:22]3([C:20]([NH:19][CH3:18])=[O:21])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,22.076995143827467,-28.85626786705427
5037,5725,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][N+:17]([CH3:18])=[C:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,38.365837503831145,-0.0099280200270765
1517,1672,[CH3:13][C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:14]([CH3:13])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:15]=[C:16]2[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,13.282648228941786,-56.290154215152654
2791,3101,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][O:24][C:25](=[O:26])[c-:27]1[c:28](=[O:29])[o:30][c:31](-[c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[n+:38]1[CH3:39]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:31]1([c:32]3[cH:33][cH:34][cH:35][cH:36][cH:37]3)[O:30][C:28](=[O:29])[C:27]2([C:25]([O:24][CH3:23])=[O:26])[N:38]1[CH3:39],water,298.15,26.45454436401757,0.5288719162984619
2534,2814,[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([O:15][CH3:16])([O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][O:24][C:25](=[O:26])[N:27]=[O+:28][N-:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([O:15][CH3:16])([O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:27]([C:25]([O:24][CH3:23])=[O:26])[O:28][N:29]2[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,9.657946494185852,-52.14284426147103
3044,3408,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][N-:6][NH+:7]=[C:8]([C:9]#[N:10])[C:11](=[O:12])[O:13][CH3:14]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[NH:7][C:8]1([C:9]#[N:10])[C:11](=[O:12])[O:13][CH3:14],water,298.15,26.734458993025022,-7.408613295000594
1736,1921,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([N+:22]#[C:23][C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29].[CH3:1]/[C:2](=[C:3](\[CH3:4])[c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@@:2]1([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[C@:3]([CH3:4])([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([C:27]([CH3:28])=[O:29])[N:22]=[C:23]1[C:24]([CH3:25])=[O:26],water,298.15,26.081704570372228,-16.507529011197253
4359,4980,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[O:16][CH:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,11.3346853809021,-35.1087217392087
2416,2684,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[O+:21][C-:22]([C:23]#[N:24])[C:25](=[O:26])[O:27][CH3:28])[C:29]([CH3:30])=[O:31].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([C:23]#[N:24])([C:25](=[O:26])[O:27][CH3:28])[O:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:29]([CH3:30])=[O:31],water,298.15,7.786348072419888,-64.52980938543023
